US07402592B2
7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride (90 mg, 0.33 mmol) was dissolved in 37% aqueous formaldehyde (3 ml), and 98% formic acid (10 ml) was added. This mixture was refluxed for 1 h. The reaction was then cooled, concentrated by rotary evaporation, and treated with saturated sodium bicarbonate solution (15 ml). It was then extracted with chloroform (3×15 ml), and the extracts were dried over sodium sulfate, filtered and concentrated by rotary evaporation. Concentrated HCl (5 drops) was added to a solution of the free base in ethanol (10 ml). The excess HCl and residual water were removed by repeated azeotropic rotary evaporation with ethanol. 3-Methyl-7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride was isolated as a white, hygroscopic solid (116 mg, >100% due to moisture content).

reactant | 7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride | 0.33 mmol, 90 mg | Cl.Cl.N1=CC(=CC=C1)C1=CC2CNCC(C1)C2
reactant | formic acid | 10 ml | C(=O)O | CH2O2
solvent | formaldehyde | 3 ml | C=O | CH2O
product | 3-Methyl-7-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene dihydrochloride | Cl.Cl.CN1CC2CC(=CC(C1)C2)C=2C=NC=CC2 | InChI=1S/C14H18N2.2ClH/c1-16-9-11-5-12(10-16)7-14(6-11)13-3-2-4-15-8-13;;/h2-4,6,8,11-12H,5,7,9-10H2,1H3;2*1H
